US07897597B2
4-Amino-1-(2-hydroxy-2-methylpropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-7-ol was alkylated as described in the general procedure for Examples 7-20, using 2 equivalents of cesium carbonate and 1.1 equivalents of 1-(2-bromoethyl)pyrrole. The reaction was heated overnight at 50° C. and then heated to 80° C. for an additional four hours. The reaction was cooled and poured into water containing 20 g of sodium chloride. The resulting precipitate was filtered and purified using column chromatography eluting with a gradient of 0-8% methanol in dichloromethane. The clean fractions were combined, concentrated, and recrystallized from acetonitrile to give 160 mg of 1-[4-amino-2-(2-methoxyethyl)-7-[2-(pyrrol-1-yl)ethoxy]-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol as an off-white solid, mp 168.0-169.0° C.

reactant | 4-Amino-1-(2-hydroxy-2-methylpropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-7-ol | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)O)CCOC)O | C17H22N4O3
reactant | cesium carbonate | 2 equivalents | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(2-bromoethyl)pyrrole | 1.1 equivalents | BrCCN1C=CC=C1 | C6H8BrN
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 20 g | O | H2O
product | 1-[4-amino-2-(2-methoxyethyl)-7-[2-(pyrrol-1-yl)ethoxy]-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol | 160 mg | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(O)C)CCOC)OCCN2C=CC=C2 | C23H29N5O3
